US05270405
3-Methyl-4-nitrophenol (15.3 grams, 0.10 mole) in anhydrous tetrahydrofuran (100 milliliters) is added dropwise to a vigorously stirred, refluxing suspension of excess lithium aluminum hydride (6.0 grams) in anhydrous tetrahydrofuran (100 milliliters). After completion of the addition, reflux is maintained for an additional 24 hours. The recovered mixture is poured over crushed ice then extracted with diethyl ether. The ether extract is dried over anhydrous magnesium sulfate followed by rotary evaporation under vacuum to provide a wine red solid identified as 4,4'-dihydroxy-2,2'-dimethylazobenzene by nuclear magnetic resonance spectroscopy. Oxidation of the recovered azo compound is accomplished by dissolution in tetrahydrofuran followed by addition of a 10 mole percent excess of 32% peracetic acid at 25° C. Two hours after addition of the peracetic acid, the solution is poured into a mixture of saturated sodium bisulfite (50 milliliters) and saturated sodium bicarbonate (50 milliliters). The precipitated solid is filtered from the aqueous mixture then recrystallized from deionized water to provide 4,4'-dihydroxy-2,2'-dimethylazoxybenzene (11.0 grams).

reactant | 3-Methyl-4-nitrophenol | 0.10 mole, 15.3 grams | CC=1C=C(C=CC1[N+](=O)[O-])O | C7H7NO3
reactant | lithium aluminum hydride | 6.0 grams | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4,4'-dihydroxy-2,2'-dimethylazobenzene | OC1=CC(=C(C=C1)N=NC1=C(C=C(C=C1)O)C)C | C14H14N2O2
reactant | peracetic acid | C(C)(=O)OO | C2H4O3
reactant | sodium bisulfite | 50 milliliters | S([O-])(O)=O.[Na+]
reactant | sodium bicarbonate | 50 milliliters | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 100 milliliters | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 milliliters | O1CCCC1 | C4H8O
product | 4,4'-dihydroxy-2,2'-dimethylazoxybenzene | 11.0 grams | OC1=CC(=C(C=C1)[N+]([O-])=NC1=C(C=C(C=C1)O)C)C | C14H14N2O3
